US06143764
N-Ethoxycarbonyl-N'-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}urea [190]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was dissolved in toluene (5 ml) with heat, ethoxycarbonyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 15 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 20 mg of the title compound (yield: 28%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | ethoxycarbonyl isocyanate | 0.2 ml | C(C)OC(=O)N=C=O | C4H5NO3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-Ethoxycarbonyl-N'-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}urea | 20 mg, yield: 28% | C(C)OC(=O)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C21H21N3O6
